US06184244B2
N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester
To a solution of N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester (3.36 g, 6.73 mmol) in acetone (20 ml) was added dry NaI (0.20 g, 1.35 mmol) and potassium (2,3,5,6-tetrafluoro)-phenoxide (1.37 g, 6.73 mmol) at room temperature and stirred for 1 hour. The reaction mixture was diluted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The resultant solid was triturated with ether to provide the titled product as a white solid (3.53 g, 6.04 mmol, 89%). MS C28 H32N2O7, [M+Na]+ =607, [M−H]− =583.

reactant | N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester | 6.73 mmol, 3.36 g | C(=O)(OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CBr)=O | C23H31BrN2O7
reactant | NaI | 1.35 mmol, 0.20 g | [Na+].[I-]
reactant | potassium (2,3,5,6-tetrafluoro)-phenoxide | 6.73 mmol, 1.37 g | FC1=C([O-])C(=C(C=C1F)F)F.[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 6.04 mmol, 3.53 g, 89% | C(=O)(OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C29H32F4N2O8
